US07179801B2
To formic acid (50 ml) was added acetic anhydride (60 ml), and the mixture was stirred at 40° C. for 2 hours. The resulting mixture was added to the above oily product [3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid] and the mixture was stirred at room temperature for 15 hours. After evaporation of the solvent in vacuo, to the residue was added water. The mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and concentrated in vacuo. The residue was dissolved in methanol, and the insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 3-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid (23 g) as an oil.

reactant | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid | N1=CC(=C2N1CCCN2)CCC(=O)O | C9H13N3O2
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 3-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid | 23 g | C(=O)N1C=2N(CCC1)N=CC2CCC(=O)O | C10H13N3O3
